US07897762B2
To a solution of ethyl 4,6-dichloronicotinate (5 g, 22.8 mmol) in CH3CN (30 mL) was added dropwise aqueous methylamine (65%, 5.2 g, 45.6 mmol) at 0° C. The resulting mixture was stirred at RT for 8 h. The organic solution was removed under reduced pressure to give the crude product, which was suspended in H2O and extracted with EtOAc (3×20 mL). The combined extracts were washed with brine, dried (MgSO4) and concentrated to give ethyl 6-chloro-4-(methylamino)nicotinate (4 g, 82% yield), which was used in the next step without further purification. 1HNMR (300 MHz, DMSO-d6): δ 8.48 (s, 1 H), 8.04 (d, J=4.5 Hz, 1 H), 6.71 (s, 1 H), 4.27 (q, J=6.9 Hz, 2 H), 2.85 (d, J=5.1 Hz, 3 H), 1.29 (t, J=6.9 Hz, 3 H).

reactant | ethyl 4,6-dichloronicotinate | 22.8 mmol, 5 g | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | methylamine | 45.6 mmol, 5.2 g | CN | CH5N
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | H2O | O | H2O
product | ethyl 6-chloro-4-(methylamino)nicotinate | 4 g, 82% yield | ClC1=NC=C(C(=O)OCC)C(=C1)NC | C9H11ClN2O2
